US04107308
5-Methyl-2-n-propyl-4-imidazolecarboxaldehyde
An 80 gm. portion of 5-methyl-2-n-propyl-4-imidazolemethanol is oxidized with 67.3 ml. of concentrated HNO3. A second portion of 101.4 gm. of the above compound is oxidized with 77 ml. of the acid. The reaction mixtures are combined, neutralized and worked up as in Example 11, giving the desired product, m.p. 126°-129° C.

reactant | 5-methyl-2-n-propyl-4-imidazolemethanol | CC1=C(N=C(N1)CCC)CO | C8H14N2O
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
product | 5-Methyl-2-n-propyl-4-imidazolecarboxaldehyde | CC1=C(N=C(N1)CCC)C=O | C8H12N2O
